Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:11].[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])[H:8])[C:9]([H:10])=[C:12]([H:13])[H:14]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-2.32995954835
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],3.89807452798
[O:1]=[C:2]([H:3])/[C:4]([C:5]([H:6])[H:7])=[C:8](\[H:9])[O:10][H:11]>>[C:4](=[C:5]([H:6])[H:7])=[C:8]([H:9])[O:10][H:11].[O:1]=[C:2][H:3],1.89457690625
[H:1][C:2][O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11].[H:3]>>[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11],-4.88147164809
[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][H:10]>>[H:8].[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:9][H:10],1.60418575686
[H:1][C:2]([H:3])=[C:4]([H:5])[C:11]([C:8]([O:7][O:6])([H:9])[H:10])([H:12])[H:13]>>[H:1][C:2]([H:3])[C@:4]1([H:5])[O:6][O:7][C:8]([H:9])([H:10])[C:11]1([H:12])[H:13],-0.0210489810597
[H:1][C:5](=[C:6][H:4])[O:11][C:2]#[C:3][C:7]([H:8])([H:9])[H:10]>>[H:1][C:2]1=[C:3]([H:4])/[C:5](=[C:6]/[C:7]([H:8])([H:9])[H:10])[O:11]1,-1.00680461196
[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6]/[O:7][C:8]([H:9])([H:10])[H:11]>>[H:11].[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6]/[O:7][C:8]([H:9])[H:10],4.201589353419998
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7][C:8]([H:9])([H:10])[O:11][H:12]>>[H:1].[O:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[O:11][H:12],2.16331636969
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7],4.78980407328
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:17].[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([C:10]([H:11])([H:12])[H:13])=[C:14]([H:15])[H:16],1.93364452777
[C:1]#[C:2][C:3]1=[C:4]([H:5])[C:6]1([H:7])[H:8]>>[C:1][C:2]#[C:3][C:4]([H:5])=[C:6]([H:7])[H:8],-0.82176216992
[H:12].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([O:8][H:9])=[C:10][H:11]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([O:8][H:9])=[C:10]([H:11])[H:12],-5.14927418007
[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])[H:11]>>[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-2.90643611325
[H:1][C:2]([H:3])=[C:4]([C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:5]>>[H:1][C:2]([H:3])[C@:4]([H:5])([C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.49517121639
[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2]#[C:3][H:4],1.5931860333
[H:12].[H:1][C:2]=[C:3]([C:4]#[C:5][H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][C:2]/[C:3]([C:4]#[C:5][H:6])=[C:7](/[H:8])[C:9]([H:10])([H:11])[H:12],-2.00374916294
[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6][H:7])[C:11]([C:8]([H:9])[H:10])([H:12])[H:13]>>[H:1][C:2]=[C:3]([H:4])[C:5]1=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]1([H:12])[H:13],-3.14947089201
[H:1][C:2]([H:3])/[C:4](=[C:5](/[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4]([H:6])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])=[C:5][C:7]([H:8])([H:9])[H:10],4.94187269377
[O:1]=[C:2](/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:9].[O:1]=[C:2]([C:3]([H:4])=[C:5]=[C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[H:13],1.8541914366900003
[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C@:8]([O:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C@@:8]([O:9])([H:10])[C:11]([H:12])([H:13])[H:14],-1.10318315971
[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])[O:9][H:10]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14],-3.5609440343300003
[H:1][C:2]=[C:3]([H:4])[C:6]([H:7])([H:8])[C:9][O:10][H:11].[H:5]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][O:10][H:11],-1.5574048588
[C:1]#[C:2][O:3]/[C:4]=[C:5](\[H:6])[O:7][H:8]>>[C:1]#[C:2][O:3][C:4]#[C:5][H:6].[O:7][H:8],3.47605131292
[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12],-8.508254824069999
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]#[C:11][H:12]>>[H:12].[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]#[C:11],5.552233906950001
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13].[O:1],8.15272573539
[C:1]#[C:2][O:3][C:4]([C:5]([H:6])[H:7])=[C:8]([H:9])[H:10]>>[C:1]#[C:2][O:3][C:4][C:5]([H:6])[H:7].[C:8]([H:9])[H:10],5.7690409374
